US04954511
A mixture of 10 g of potassium carbonate, 0.18 g of potassium iodide, 4.0 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine and 50 ml of dimethylformamide was treated with a solution of 4.56 g of 1-(3-chloropropyl)-4-(2-methoxyphenyl)piperazine in 25 ml dimethylformamide and stirred for seven hours at 75° C. After cooling to room temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, evaporation afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with 7.5% methanol/dichloromethane). Evaporation of the appropriate fractions afforded 3.84 g of 1-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-4-(2,3,4,5,6-pentafluorophenoxy)piperidine as an oil. The oil was dissolved in isopropanol and acidified to pH 1 with etheral hydrogen chloride to precipitate the corresponding dihydrochloride salt. Recrystallization from isopropanol afforded 3.34 g (44.6%) of 1-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-4-(2,3,4,5,6-pentaflurophenoxy)piperidine hydrochloride, m.p. 261°-263° C.

reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.18 g | [I-].[K+]
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.0 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | 1-(3-chloropropyl)-4-(2-methoxyphenyl)piperazine | 4.56 g | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C14H21ClN2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 3.84 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1CCC(CC1)OC1=C(C(=C(C(=C1F)F)F)F)F | C25H30F5N3O2
